US08026234B2
Compound 101: 4-(9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(4-methylpiperazin-1-yl)benzamide
The title compound was synthesized from 4-(9-cyclohexyl-7-fluoro-7-vinyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and 1-amino 4-methylpiperazine. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.48-2.05 (m, 8H) 2.22 (br. s., 3H) 2.42 (m, 4H) 2.93 (t, J=4.55 Hz, 4H) 3.28 (br. s., 3H) 3.72 (m, 2H) 3.93 (br. s., 3H) 4.87 (m, 1H) 5.39 (d, 2H) 5.99 (m, 1H) 7.43 (br. s, 2H) 7.82 (s, 1H) 8.12 (br. s., 1H) 8.32 (d, J=8.0 Hz, 1H) 9.36 (s, 1H). Melting point: 253-263° C. [M+H] calculated for C28H37FN8O3, 553. found 553.

reactant | 4-(9-cyclohexyl-7-fluoro-7-vinyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(C=C)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C24H28FN5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-amino 4-methylpiperazine | NN1CCN(CC1)C | C5H13N3
product | 4-(9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(4-methylpiperazin-1-yl)benzamide | C1(CCCC1)N1C2=C(N(C(C(C1)(C=C)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NN1CCN(CC1)C)C=C2)OC | C28H37FN8O3
